US07465737B2
15.1 8,8-Dimethyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one
A mixture of 7.68 g (39.8 mmol) of ethyl 3-(pyridin-4-yl)-3-oxopropionate, 7.9 g (37.9 mmol) of 6,6-dimethyl-1,4,5,6-tetrahydro-pyrimidin-2-ylamine hydrobromide (prepared according to Bull. Soc. Chim. Belg., 1950, 59, 573-587) and 11 g (79.5 mmol) of potassium carbonate in 80 ml of ethanol were heated at reflux temperature during 18 h. The reaction mixture was cooled and the solvent removed by evaporation. The residue obtained was treated with water and the precipitate recovered by filtration to give 3.21 g (33%) of product.

reactant | ethyl 3-(pyridin-4-yl)-3-oxopropionate | 39.8 mmol, 7.68 g | N1=CC=C(C=C1)C(CC(=O)OCC)=O | C10H11NO3
reactant | 6,6-dimethyl-1,4,5,6-tetrahydro-pyrimidin-2-ylamine hydrobromide | 37.9 mmol, 7.9 g | Br.CC1(CCN=C(N1)N)C
reactant | potassium carbonate | 79.5 mmol, 11 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 8,8-Dimethyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 3.21 g, 33% | CC1(NC=2N(C(C=C(N2)C2=CC=NC=C2)=O)CC1)C | C14H16N4O
